US04343811
2-Methyl-3-phenyl-1H-indole-4-ol
An amount of 22.5 g (0.1 mole) of 4,5,6,7-tetrahydro-2-methyl-3-phenyl-1H-4indolone and 5 g of palladium on charcoal were heated for six hours to 200° C. After cooling, ether was added under stirring, and the mixture was filtered. The ether filtrate was evaporated, and the residue was chromatographed on silicagel (solvent: toluene).

reactant | 4,5,6,7-tetrahydro-2-methyl-3-phenyl-1H-4indolone | 0.1 mole, 22.5 g | CC=1NC=2CCCC(C2C1C1=CC=CC=C1)=O | C15H15NO
catalyst | palladium on charcoal | 5 g | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | 2-Methyl-3-phenyl-1H-indole-4-ol | CC=1NC=2C=CC=C(C2C1C1=CC=CC=C1)O | C15H13NO
